US05550260
1 (S)-4-hydroxy-3-methyl-2-(2-propynyl)-cyclopent-2-ene-1-one (50.0 g) was dissolved in dry dimethylformamide (600 ml), and imidazole (27.3 g) was added to the dimethylformamide solution. Tert-butyldimethylchlorosilane (55.3 g) was added to the solution under ice-water cooling and the resulting mixture was allowed to react for 2 hours, then for 13 hours at 20° C. The reaction solution was poured into an aqueous oxalic acid solution under ice-water cooling, and extracted three times with diethyl ether (200 ml). The ether layers were combined, and the combined layer was washed with saturated aqueous sodium bicarbonate solution and brine in sequence. After dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The resultant residue was subjected to distillation under reduced pressure to afford (S)-4-tert-butyldimethylsilyloxy-3-methyl-2-(2-propynyl)cyclopent-2-ene-1-one (76.0 g, yield 86.0%) as a pale yellow oil.

reactant | (S)-4-hydroxy-3-methyl-2-(2-propynyl)-cyclopent-2-ene-1-one | 50.0 g | O[C@@H]1C(=C(C(C1)=O)CC#C)C | C9H10O2
reactant | imidazole | 27.3 g | N1C=NC=C1 | C3H4N2
reactant | Tert-butyldimethylchlorosilane | 55.3 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | (S)-4-tert-butyldimethylsilyloxy-3-methyl-2-(2-propynyl)cyclopent-2-ene-1-one | 76.0 g, yield 86.0% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(=C(C(C1)=O)CC#C)C | C15H24O2Si
